US03931408
2-butinyloxyphenol
A solution of 122 parts of p-toluenesulphonic acid-2-butinyl ester in 150 parts by volume of acetone is dropped into a boiling mixture of 66 parts of pyrocatechol, 75 parts of potassium carbonate, 91 parts of potassium iodide and 360 parts by volume of acetone. The suspension is refluxed for 24 hours, then cooled, filtered and evaporated. The residue is taken up in ether, repeatedly washed with water and while being cooled with ice extracted with 200 parts by volume of sodium hydroxide solution of 10 % strength. The alkaline extract is neutralised with hydrochloric acid and the product taken up with chloroform. The solvent is evaporated and the product distilled at a bath temperature of 120°C under 0.05 mm Hg pressure. The distillate crystallises; it melts at 43° to 46°C.

reactant | p-toluenesulphonic acid-2-butinyl ester | C(C#CC)OS(=O)(=O)C1=CC=C(C=C1)C | C11H12O3S
reactant | pyrocatechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-butinyloxyphenol | C(#CCC)OC1=C(C=CC=C1)O | C10H10O2
